US07678787B2
Step C. 2,2,2-Trichloro-1-{10-[(4-chloro-2-methylphenoxy)acetyl]-10,11-dihydro-5H-pyrrolo[2,1-c][1,4]benzodiazepin-3-yl}ethanone
To a cold (0° C.) solution of 10-[(4-chloro-2-methylphenoxy)acetyl]-10,11-dihydro-5H-pyrrolo[2,1-c][1,4]benzodiazepine (2.70 mmol) and triethylamine (0.76 mL) in dichloromethane (15 mL) was added trichloroacetyl chloride (0.90 mL). This was stirred and allowed to warm to room temperature overnight. The reaction mixture was washed with water (2×), 0.1N hydrochloric acid (2×), dilute aqueous sodium bicarbonate (2×) and finally with water (1×). The organic phase was dried over anhydrous sodium sulfate and evaporated. The product was purified by crystallization from warm ethyl acetate/hexane (3/1), m.p. 156-158° C.

reactant | 10-[(4-chloro-2-methylphenoxy)acetyl]-10,11-dihydro-5H-pyrrolo[2,1-c][1,4]benzodiazepine | 2.70 mmol | ClC1=CC(=C(OCC(=O)N2CC=3N(CC4=C2C=CC=C4)C=CC3)C=C1)C | C21H19ClN2O2
reactant | triethylamine | 0.76 mL | C(C)N(CC)CC | C6H15N
reactant | trichloroacetyl chloride | 0.90 mL | ClC(C(=O)Cl)(Cl)Cl | C2Cl4O
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | 2,2,2-Trichloro-1-{10-[(4-chloro-2-methylphenoxy)acetyl]-10,11-dihydro-5H-pyrrolo[2,1-c][1,4]benzodiazepin-3-yl}ethanone | ClC(C(=O)C1=CC=C2CN(C3=C(CN21)C=CC=C3)C(COC3=C(C=C(C=C3)Cl)C)=O)(Cl)Cl | C23H18Cl4N2O3
